US06956050B2
STEP 2. N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]-5-methyl-2-pyridinesulfonamide
A mixture of phenyl 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate (203 mg, 0.50 mmol), 5-methylpyridine-2-sulfonamide (86 mg, 0.50 mmol) and DBU (82 μL, 0.55 mmol) in acetonitrile (5 mL) was stirred for overnight at ambient temperature. Then, the volatile components were removed by evaporation and the residue was dissolved in dichloromethane. The organic phase was washed with water, dried (MgSO4) and concentrated. The residue was purified by TLC with dichloromethane/methanol (10:1) to afford 145 mg (60%) of the title compound as white solids: MS (ESI) m/z 490 [M+H]+, 488 [M−H]−, 1H-NMR (DMSO-d6) δ 1.18 (3H, t, J=7.5 Hz), 2.37 (3H, s), 2.72-2.90 (4H, m), 3.23 (2H, q, J=6.0 Hz), 6.69 (1H, br), 7.40-7.59 (6H, m), 7.85-7.93 (4H, m), 8.24 (1H, s), 8.55 (1H, s).

reactant | phenyl 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate | 0.50 mmol, 203 mg | C(C)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O | C26H25N3O2
reactant | 5-methylpyridine-2-sulfonamide | 0.50 mmol, 86 mg | CC=1C=CC(=NC1)S(=O)(=O)N | C6H8N2O2S
reactant | DBU | 0.55 mmol, 82 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]-5-methyl-2-pyridinesulfonamide | 145 mg, 60% | C(C)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCNC(=O)NS(=O)(=O)C1=NC=C(C=C1)C | C26H27N5O3S
